US08648081B2
Stir a mixture of 3-[5-(3,5-Dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-4,5,6,7-tetrahydro-benzo[c]thiophene-1-carboxylic acid (850 mg, 1.84 mmol), HATU (837 mg, 2.20 mmol) and DIEA (539 mg, 0.8 mL, 4.6 mmol) in DCM (8 mL) at room temperature for 15 min, followed by addition of (R)-3-aminopyrrolidin-2-one hydrochloride (315 mg, 2.76 mmol). Stir the reaction mixture at room temperature for additional 1.5 hour. Dilute the reaction mixture with water (20 mL) and extract with DCM (20 mL×3). The combined organic layers are washed brine, dried over anhydrous Na2SO4 and concentrated under vacuum. Purify the residue by preparative HPLC to afford 3-(5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl)-N—((R)-2-oxopyrrolidin-3-yl)-4,5,6,7-tetrahydrobenzo[c]thiophene-1-carboxamide as a white solid (730 mg, 73.0%). MS (m/z): 546 (M+1); 1H NMR (400 MHz, CDCl3) δ 7.52-7.46 (m, 3H), 6.49 (s, 1H), 5.83 (s, 1H), 4.51-4.48 (m, 1H), 4.22 (d, J=17.2, 1H), 3.85 (d, J=17.2, 1H), 3.52-3.47 (m, 2H), 3.09-2.87 (m, 5H), 2.12-2.03 (m, 1H), 1.89-1.73 (m, 4H).

reactant | 3-[5-(3,5-Dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-4,5,6,7-tetrahydro-benzo[c]thiophene-1-carboxylic acid | 1.84 mmol, 850 mg | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=C2C(=C(S1)C(=O)O)CCCC2)C(F)(F)F | C19H14Cl2F3NO3S
reactant | HATU | 2.20 mmol, 837 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 4.6 mmol, 0.8 mL, 539 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | (R)-3-aminopyrrolidin-2-one hydrochloride | 2.76 mmol, 315 mg | Cl.N[C@H]1C(NCC1)=O
solvent | DCM | 8 mL | C(Cl)Cl | CH2Cl2
solvent | water | 20 mL | O | H2O
product | 3-(5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl)-N—((R)-2-oxopyrrolidin-3-yl)-4,5,6,7-tetrahydrobenzo[c]thiophene-1-carboxamide | 730 mg, 73.0% | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=C2C(=C(S1)C(=O)N[C@H]1C(NCC1)=O)CCCC2)C(F)(F)F | C23H20Cl2F3N3O3S
